US07569577B2
N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-({1-[(2-methoxyethoxy)acetyl]piperidin-4-yl}oxy)quinazolin-4-amine
N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine dihydrochloride (300 mg), diisopropylethylamine (0.45 ml) and 2-(2-methoxyethoxy)acetyl chloride (0.105 g) were stirred in methylene chloride (9 ml) for 2.5 hours. Methylene chloride (20 ml) was added and the organic layer was washed with aqueous sodium hydroxide (2M, 30 ml) and water (30 ml). The resulting product was purified by flash column chromatography eluting with methanol (3%) and methylene chloride (97%) gave a foam. This was re-precipitated by stirring in diethyl ether (20 ml) to give the title product as a white solid (0.110 g); 1H NMR Spectrum: (DMSO d6 373K) 1.73 (m, 2H), 2.02 (m, 2H), 3.29 (s, 3H), 3.42 (m, 2H), 3.51 (t, J=7 Hz, 2H), 3.60 (t, J=9 Hz, 2H), 3.78 (m, 2H), 3.96 (s, 3H), 4.17 (s, 2H), 4.87 (m, 1H), 7.27 (m, 1H), 7.33 (s, 1H), 7.42 (m, 1H), 7.58 (m, 1H), 7.85 (s, 1H), 8.39 (s, 1H), 9.29 (br s, 1H); Mass Spectrum: (M+H)+ 519; melting point 110 to 111° C.

reactant | N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine dihydrochloride | 300 mg | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1)F
reactant | diisopropylethylamine | 0.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-methoxyethoxy)acetyl chloride | 0.105 g | COCCOCC(=O)Cl | C5H9ClO3
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-({1-[(2-methoxyethoxy)acetyl]piperidin-4-yl}oxy)quinazolin-4-amine | 0.110 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCN(CC1)C(COCCOC)=O)F | C25H28ClFN4O5
